US07713979B2
3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-2-carboxylic acid ethyl ester
Using the procedure to synthesize Example 81 and using reagents 3-(4-bromo-2-chloro-benzyl)-1-cyclohexyl-pyrrolidin-2-one (500 mg, 1.35 mmol) and ethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (560 mg, 2.0 mmol) affords 287 mg (48%) of the title compound: Mass spectrum (apci) m/z=440.2 (M+H).

reactant | 3-(4-bromo-2-chloro-benzyl)-1-cyclohexyl-pyrrolidin-2-one | 1.35 mmol, 500 mg | BrC1=CC(=C(CC2C(N(CC2)C2CCCCC2)=O)C=C1)Cl | C17H21BrClNO
reactant | ethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.0 mmol, 560 mg | C(C)OC(C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H21BO4
product | 3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-2-carboxylic acid ethyl ester | 287 mg, 48% | C(C)OC(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)CC1C(N(CC1)C1CCCCC1)=O)Cl | C26H30ClNO3
